* Wurlitzer 200A Power Amplifier Subcircuit
* ==========================================
* Quasi-complementary Class AB push-pull, ~20W into 8 ohms.
* Topology from verified 200A schematic (#203720-S-3).
*
* Signal chain:
*   PNP diff pair (TR-7/TR-8) -> NPN VAS (TR-14) ->
*   Vbe multiplier (TR-9) -> Sziklai output pairs
*
* Key topology points (traced from schematic Feb 2026):
*   - R-29 (1K) is TR-7 collector load to -Vcc (NOT VAS emitter degen)
*   - TR-14 emitter directly on -Vcc rail (no degeneration)
*   - R-32/R-33 (1.8K each) form bootstrapped VAS collector load
*   - C-12 (100u) bootstraps from mid-point of R32/R33 to output
*   - C-11 (100pF) Miller comp: VAS collector to VAS base
*   - Output stage: Sziklai/CFP pairs (TR-10/TR-11, TR-12/TR-13)
*   - Output tapped between emitter resistors R-37 and R-38

.SUBCKT wurli_power_amp in out vp vn gnd

* ============================================================
* INPUT COUPLING AND BIAS
* ============================================================
C8    in     in_ac   4.7U
C9    in_ac  gnd     1N

* ============================================================
* DIFFERENTIAL PAIR (TR-7, TR-8: PNP 2N5087)
* ============================================================
* R-28 (10K): tail current source for diff pair, returned to the +15 V REGULATED rail.
* Schematic note: "select R28 for 0V DC at point [16]"
R28   emit_pair  vreg15    10K
* +15 V REGULATED rail (drawn, 2026-09-22 pixel-walked read): R-28 is the only
* power-amp part on it. Ideal source standing in for IC-1; static by nature.
Vreg15 vreg15 gnd DC 15
Q7    coll7    in_ac     emit_pair   Q2N5087
Q8    coll8    fb_inv    emit_pair   Q2N5087

* Collector loads to -Vcc rail
* R-29 (1K): TR-7 collector load to -Vcc. Single-ended output diff pair:
*   only coll7 drives VAS. TR-8 collector goes directly to -Vcc rail
*   (traced to -22.5V node in power supply section, no separate load).
R29      coll7   vn    1K
R_coll8  coll8   vn    1m

* ============================================================
* NEGATIVE FEEDBACK NETWORK
* ============================================================
* R-27 (15K): input bias resistor, TR-7 base to ground.
R27   in_ac  gnd      15K
*
R31   out     fb_inv   15K
* R-30 + C-10 in series: sets AC gain = 1 + R31/R30 = 69x (37 dB)
* At DC: C-10 open -> 100% feedback -> output locked to ~0V
* Corner freq = 1/(2*pi*220*22u) = 33 Hz
R30   fb_inv  c10_node 220
C10   c10_node gnd     22U

* ============================================================
* VAS / PRE-DRIVER (TR-14: NPN MPSA06)
* ============================================================
* Base = coll7 (-22V), emitter = -Vcc (-22.5V), Vbe ~= 0.5V.
* Feedback adjusts diff pair balance to set correct VAS current.
* Q14 collector = drv_bot (below Vbe multiplier). VAS sinks current
* from drv_bot, pulling it to -0.65V. Current chain: load -> vas_out -> Q9 -> drv_bot -> Q14 -> -Vcc
Q14   drv_bot   coll7    vn   QMPSA06

* Miller compensation: VAS collector to VAS base
C11   drv_bot   coll7   100P

* ============================================================
* BOOTSTRAPPED VAS COLLECTOR LOAD
* ============================================================
* +Vcc -> R-32 (1.8K) -> boot -> R-33 (1.8K) -> vas_out
* C-12 bootstraps boot node to output for high AC impedance.
R32   vp     boot      1.8K
R33   boot   vas_out   1.8K
C12   boot   out       100U

* ============================================================
* VBE MULTIPLIER / BIAS CONTROL (TR-9: NPN MPSA06)
* ============================================================
* Sets ~1.1V drop between vas_out and drv_bot for class AB bias.
* Vce = Vbe * (1 + R34/R35) = ~0.65 * 1.73 = ~1.12V
Q9    vas_out   bias_mid   drv_bot   QMPSA06
R34   vas_out   bias_mid   160
R35   bias_mid  drv_bot    220

* ============================================================
* TOP SZIKLAI: TR-10 (NPN driver) + TR-11 (PNP output)
* ============================================================
* TR-10: B=vas_out, C=base11, E=nodeC
* TR-11: E=+Vcc, B=base11 (from TR-10 C), C=nodeC
Q10   base11   vas_out   nodeC    QMPSA06
Q11   nodeC    base11    vp       QTIP36C
R36   base11   vp        270
* C-13: 100 pF across TR-10 collector-base (drawn).
C13   base11   vas_out   100P

* ============================================================
* BOTTOM SZIKLAI: TR-12 (PNP driver) + TR-13 (NPN output)
* ============================================================
* TR-12: B=drv_bot, C=base13, E=nodeD
* TR-13: E=-Vcc, B=base13 (from TR-12 C), C=nodeD
Q12   base13   drv_bot   nodeD    QMPSA56
Q13   nodeD    base13    vn       QTIP35C
R39   base13   vn        270
* C-14: 100 pF across TR-12 collector-base (drawn).
C14   base13   drv_bot   100P

* ============================================================
* OUTPUT EMITTER RESISTORS
* ============================================================
* nodeC -> R37 -> output -> R38 -> nodeD
* (Fuses F-1 and F-2 omitted in simulation)
R37   nodeC   out   0.47
R38   nodeD   out   0.47

* --- Output Zobel (drawn): R-40 12 ohm + C-15 0.1 uF, output to ground ---
R40   out     zob   12
C15   zob     gnd   0.1U

.ENDS wurli_power_amp
